US07772246B2
To a suspension of 5-bromo-2,3-dimethyl-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (B-6-3) (0.9 g, 2.5 mmol) in THF (30 mL) and MeOH (30 mL) was added aq. NaOH (20%, 19 mL) at room temperature. The mixture was heated to reflux overnight. TLC (Petroleum ether: EtOAc=5:1) showed the reaction was complete. After the solvent was removed under reduced pressure, water (20 mL) and CH2Cl2 (20 mL) were added into the mixture. The organic layer was separated, dried over anhydrous Na2SO4. The mixture was concentrated to give crude mixture which was purified via prep. HPLC to afford 5-bromo-2,3-dimethyl-1H-pyrrolo[2,3-b]pyridine (B-6-4) (0.4 g, 72.4%) as a white solid.

reactant | 5-bromo-2,3-dimethyl-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 2.5 mmol, 0.9 g | BrC=1C=C2C(=NC1)N(C(=C2C)C)S(=O)(=O)C2=CC=CC=C2 | C15H13BrN2O2S
reactant | NaOH | 19 mL | [OH-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | MeOH | 30 mL | CO | CH4O
product | 5-bromo-2,3-dimethyl-1H-pyrrolo[2,3-b]pyridine | 0.4 g, 72.4% | BrC=1C=C2C(=NC1)NC(=C2C)C | C9H9BrN2
